US04880806
To 2-chloro-5,6-difluoro-3-nitrotoluene (1.0 g) are added spray-dried potassium fluoride (1.4 g), anhydrous dimethylsulfoxide (10 ml) and benzene (10 ml), and the moisture is removed by azeotropic distillation together with benzene. Subsequently, the mixture is stirred at 170°-180° C. under argon stream for 3.5 hours. After cooling, the reaction mixture is poured into ice water and extracted with diethyl ether. The extract is washed with water, dried and then the solvent is distilled off. The residue is purified by silica gel column chromatography (solvent, n-hexane) to give 2,5,6-trifluoro-3-nitrotoluene (0.45 g).

reactant | 2-chloro-5,6-difluoro-3-nitrotoluene | 1.0 g | ClC1=C(C(=C(C=C1[N+](=O)[O-])F)F)C | C7H4ClF2NO2
reactant | potassium fluoride | 1.4 g | [F-].[K+]
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2,5,6-trifluoro-3-nitrotoluene | 0.45 g | FC1=C(C(=C(C=C1[N+](=O)[O-])F)F)C | C7H4F3NO2
